US07968573B2
To a solution of 3.0 g of 3-chloro-2-(1H-pyrrol-1-yl)pyridine in 30 ml of N,N-dimethylformamide was added 3.1 g of N-bromosuccinimide. The resulting mixture was stirred at room temperature for 6 hours. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate two times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 1.1 g of 2-(2-bromo-1H-pyrrol-1-yl)-3-chloropyridine of the formula:

reactant | 3-chloro-2-(1H-pyrrol-1-yl)pyridine | 3.0 g | ClC=1C(=NC=CC1)N1C=CC=C1 | C9H7ClN2
reactant | N-bromosuccinimide | 3.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(2-bromo-1H-pyrrol-1-yl)-3-chloropyridine | 1.1 g | BrC=1N(C=CC1)C1=NC=CC=C1Cl | C9H6BrClN2
